US08975254B2
c) (Z)—N′-hydroxy-1-trityl-1H-imidazole-4-carboximidamide
A mixture containing 1-trityl-1H-imidazole-4-carbonitrile (1.6 g, 4.77 mmol), ethanol (20 ml), triethylamine (1.995 ml, 14.31 mmol) and hydroxylamine hydrochloride (0.663 g, 9.54 mmol) was heated to 70° C. and stirred 4 h. The mixture was cooled with an ice bath, some water (10 ml) was added and the precipitated product filtered and washed well with water. The product was dried with vacuum at 40° C. 1H-NMR (400 MHz; DMSO-d6): δ 5.43-5.50 (m, 2H), 7.01 (d, 1H), 7.04-7.13 (m, 6H), 7.36-7.46 (m, 10H), 9.10 (d, 1H).

reactant | 1-trityl-1H-imidazole-4-carbonitrile | 4.77 mmol, 1.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C#N | C23H17N3
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | triethylamine | 14.31 mmol, 1.995 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 9.54 mmol, 0.663 g | Cl.NO
solvent | water | 10 ml | O | H2O
product | (Z)—N′-hydroxy-1-trityl-1H-imidazole-4-carboximidamide | O\N=C(/N)\C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N4O
